US07335658B2
Synthesis of 6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYL-2-HYDROXYETHYL)AMIDE
To a solution of 6-chloropyridazine-3-carboxylic acid (2-cyclopropyl-2-hydroxyethyl)amide (58 mg, 0.24 mmol) in 10 mL of DMF was added 1,8-diazabicylco[5.4.0]undec-7-ene (0.109 g), piperazin-1-yl-(2-trifluoromethylphenyl)methanone (86.7 mg, 0.33 mmol) and Bu4NI (4 mg, 0.01 mmol). The mixture was heated at 80° C. overnight. Water was added and the mixture was extracted with ethyl acetate (2×15 mL). The organic extract was washed with diluted HCl, followed by bicarbonate solution and brine, then dried over Na2SO4 and concentrated. The residue was dissolved in small amount of dichloromethane and purified by column chromatography eluted with ethyl acetate to yield the product as a white solid (35.5 mg, 32% yield). 1H NMR (300 MHz, CDCl3) δ 8.24, 8.02, 7.73, 7.58, 7.34, 6.98, 4.04, 3.85, 3.52, 3.33, 3.10, 2.60-2.41, 0.95, 0.52, 0.32. MS (ES+) m/z 464.3 (M+1).

reactant | 6-chloropyridazine-3-carboxylic acid (2-cyclopropyl-2-hydroxyethyl)amide | 0.24 mmol, 58 mg | C1(CC1)C(CNC(=O)C=1N=NC(=CC1)Cl)O | C10H12ClN3O2
reactant | 1,8-diazabicylco[5.4.0]undec-7-ene | 0.109 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | piperazin-1-yl-(2-trifluoromethylphenyl)methanone | 0.33 mmol, 86.7 mg | N1(CCNCC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C12H13F3N2O
reactant | Water | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | Bu4NI | 0.01 mmol, 4 mg | [N+](CCCC)(CCCC)(CCCC)CCCC.[I-]
product | 6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYL-2-HYDROXYETHYL)AMIDE | 35.5 mg, 32% yield | C1(CC1)C(CNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O)O | C22H24F3N5O3
